US04814337
In 100 ml of formic acid, a reaction of 18.4 g of 5-chloro-2,4-diiodopyrimidine and 6.0 g of potassium thiocyanate was conducted at 60° C. for 1 hour in a similar manner as Synthesis Example 1. Then, the reaction mixture was treated in a similar procedure as Synthesis Example 1, there was obtained a 62.5% yield of 5-chloro-2-iodo-4-thiocyanopyrimidine, m.p. 183°-186° C.

reactant | 5-chloro-2,4-diiodopyrimidine | 18.4 g | ClC=1C(=NC(=NC1)I)I | C4HClI2N2
reactant | potassium thiocyanate | 6.0 g | [S-]C#N.[K+]
solvent | formic acid | 100 ml | C(=O)O | CH2O2
product | 5-chloro-2-iodo-4-thiocyanopyrimidine | 62.5% yield | ClC=1C(=NC(=NC1)I)SC#N | C5HClIN3S
